US04005217
Acetyl chloride (4.53 g.; 0.058 mole) was added to a suspension of 1-methoxycarbonyl-3-(2-amino-4-n-butylphenyl)-thiourea (16.0 g; 0.057 mol3) in dry toluene (230 ml) and the stirred mixture was refluxed for ninety minutes. During this time the solid gradually dissolved to give a slightly turbid solution. On cooling to laboratory temperature a solid separated which was filtered off and recrystallised to give 1-methoxycarbonyl-3-(2-acetamido-4-n-butylphenyl)thiourea (11.4 g), m.p. 173°-174° C. (with decomposition).

reactant | Acetyl chloride | 0.058 mole, 4.53 g | C(C)(=O)Cl | C2H3ClO
reactant | 1-methoxycarbonyl-3-(2-amino-4-n-butylphenyl)-thiourea | 16.0 g | COC(=O)NC(=S)NC1=C(C=C(C=C1)CCCC)N | C13H19N3O2S
solvent | toluene | 230 ml | C1(=CC=CC=C1)C | C7H8
product | 1-methoxycarbonyl-3-(2-acetamido-4-n-butylphenyl)thiourea | 11.4 g | COC(=O)NC(=S)NC1=C(C=C(C=C1)CCCC)NC(C)=O | C15H21N3O3S
